US09056874B2
tert-Butyl 4-allyl-5-hydroxy-7-methyl-1H-indole-1-carboxylate
To a solution of 4-allyl-7-methyl-1H-indol-5-ol (4.03 g, 21.52 mmol) in acetonitrile (26.9 mL) was added Boc2O (15 mL, 64.6 mmol) and DMAP (0.263 g, 2.15 mmol), and the reaction was stirred at room temperature for 2 hours. The reaction was concentrated, then diluted with MeOH (75 mL) and K2CO3 (14.87 g, 108 mmol) was added. After 3 hours the reaction was neutralized with AcOH (6 mL). Water was then added and the layers were separated. The aqueous layer was extracted with EtOAc. The organics layer was washed with brine, dried over MgSO4, filtered and concentrated. The product was purified by silica gel flash chromatography (0-50% EtOAc in heptanes) to provide the title compound. MS (ESI+) m/z 288.2 (M+H).

reactant | 4-allyl-7-methyl-1H-indol-5-ol | 21.52 mmol, 4.03 g | C(C=C)C1=C2C=CNC2=C(C=C1O)C | C12H13NO
reactant | Boc2O | 64.6 mmol, 15 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | K2CO3 | 108 mmol, 14.87 g | C(=O)([O-])[O-].[K+].[K+]
reactant | AcOH | 6 mL | CC(=O)O | C2H4O2
solvent | acetonitrile | 26.9 mL | C(C)#N | C2H3N
catalyst | DMAP | 2.15 mmol, 0.263 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeOH | 75 mL | CO | CH4O
solvent | Water | O | H2O
product | tert-Butyl 4-allyl-5-hydroxy-7-methyl-1H-indole-1-carboxylate | C(C=C)C1=C2C=CN(C2=C(C=C1O)C)C(=O)OC(C)(C)C | C17H21NO3
